US07288537B2
A solution of 3-(4-chloro-benzyl)-azetidine (1.0 g, 5.50 mmol), (3-bromo-propyl)-carbamic acid tert-butyl ester (1.31 g, 5.50 mmol) and diisopropylethylamine (1.91 ml, 11.0 mmol) in dry dimethylformamide (20 ml) is stirred at ambient temperature for 18 hours. The reaction mixture is partitioned between ethylacetate and water. The organic phase is washed with water and brine, dried over magnesium sulphate and evaporated. The crude product is purified by flash silica chromatography using 5% methanol in dichloromethane as eluent to afford {3-[3-(4-Chloro-benzyl)-azetidin-1-yl]-propyl]-carbamic acid tert-butyl ester. [M+H] 339.15

reactant | 3-(4-chloro-benzyl)-azetidine | 5.50 mmol, 1.0 g | ClC1=CC=C(CC2CNC2)C=C1 | C10H12ClN
reactant | (3-bromo-propyl)-carbamic acid tert-butyl ester | 5.50 mmol, 1.31 g | C(C)(C)(C)OC(NCCCBr)=O | C8H16BrNO2
reactant | diisopropylethylamine | 11.0 mmol, 1.91 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | {3-[3-(4-Chloro-benzyl)-azetidin-1-yl]-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCN1CC(C1)CC1=CC=C(C=C1)Cl)=O | C18H27ClN2O2
